US08859591B2
To a −78° C. solution of Intermediate (79) (500 mg, 2.34 mmol) in THF (10 mL) was added n-BuLi (0.98 mL of a 2.5M solution in hexanes, 2.45 mmol). The reaction mixture was stirred for 30 min at −78° C. Di-t-butyl diazene-1,2-dicarboxylate (565 mg, 2.45 mmol) was added in one portion. The reaction mixture was allowed to warm to room temperature and stirred for 30 min. A solution of 2-chloromalonaldehyde (260 mg, 2.45 mmol) in THF (2.0 mL) was added dropwise at 0° C. 4M HCl in dioxane (10 mL) was added. The reaction mixture was stirred at reflux overnight Saturated aqueous NaHCO3 was added to bring the aqueous layer to pH=7. The mixture was extracted with ethyl acetate (10 ml×3). The combined organic layers were dried over Na2SO4 and concentrated under reduced pressure. The crude residue was purified by silica gel chromatography to give compound 4-chloro-1-(4-methoxy-2,6-dimethylphenyl)-1H-pyrazole (100 mg) as a pale yellow oil. 1H NMR (400 MHz, CDCl9) δ 7.57 (s, 1H), 7.35 (s, 1H), 6.57 (s, 2H), 3.74 (s, 3H), 1.92 (s, 6H).

reactant | n-BuLi | [Li]CCCC
reactant | Di-t-butyl diazene-1,2-dicarboxylate | 2.45 mmol, 565 mg | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
reactant | 2-chloromalonaldehyde | 2.45 mmol, 260 mg | ClC(C=O)C=O | C3H3ClO2
reactant | HCl | 4M | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | THF | 2.0 mL | C1CCOC1 | C4H8O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 4-chloro-1-(4-methoxy-2,6-dimethylphenyl)-1H-pyrazole | 100 mg | ClC=1C=NN(C1)C1=C(C=C(C=C1C)OC)C | C12H13ClN2O
